### PR TITLE
introduce divrN and divrNN

### PR DESCRIPTION
**Pull request by yoshihiro503**
Co-authored-by: Reynald Affeldt <reynald.affeldt@aist.go.jp>

##### Motivation for this change

I wanted the 2 lemmas:

divrNN : $$\frac{- x}{-y} = \frac{x}{y}$$

divrN : $$\frac{x}{-y} = -\frac{x}{y}$$

##### Things done/to do

- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- [ ] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/algebra/ssralg.v [hunk 1]
```diff
@@ -3969,6 +3969,12 @@ have [Ux | U'x] := boolP (x \is a unit); last by rewrite !invr_out ?unitrN.
 by rewrite -mulN1r invrM ?unitrN1 // invrN1 mulrN1.
 Qed.
 
+Lemma divrNN x y: (- x) / (- y) = x / y.
```
Comment (proux01) [inline mathcomp/algebra/ssralg.v:3972]:
```suggestion
Lemma divrNN x y : (- x) / (- y) = x / y.
```
(as everywhere else in the code of the library)

File: mathcomp/algebra/ssralg.v [hunk 2]
```diff
@@ -3969,6 +3969,12 @@ have [Ux | U'x] := boolP (x \is a unit); last by rewrite !invr_out ?unitrN.
...
+Proof. by rewrite invrN mulrNN. Qed.
+
+Lemma divrN x y: x / (- y) = - (x / y).
```
Comment (proux01) [inline mathcomp/algebra/ssralg.v:3975]:
```suggestion
Lemma divrN x y : x / (- y) = - (x / y).
```

**Review by proux01 — APPROVED** [review]
LGTM, will merge once the two minor comments are adressed

**Comment by proux01** [comment]
Thanks!
